US05338855
21(a) 1,4,-Dimethoxy-2-naphthylmethyltriphenylphosphonium chloride
A solution of 4.73 g of 1,4-dimethoxy-2-naphthylmethyl chloride (prepared as described in Preparation 29) and 6.29 g of triphenylphosphine in 50 ml of dry acetonitrile was heated under reflux for 2 hours. At the end of this time, the reaction mixture was freed from the solvent by distillation under reduced pressure, and the resulting crystalline residue was washed with diethyl ether and air-dried, to give 7.36 g of the title compound as a white powder, melting at 244°-246° C. (with decomposition).

reactant | 1,4-dimethoxy-2-naphthylmethyl chloride | 4.73 g | COC1=C(C=C(C2=CC=CC=C12)OC)CCl | C13H13ClO2
reactant | triphenylphosphine | 6.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1,4,-Dimethoxy-2-naphthylmethyltriphenylphosphonium chloride | 7.36 g | [Cl-].COC1=C(C=C(C2=CC=CC=C12)OC)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C31H28O2P.ClH/c1-32-30-22-24(31(33-2)29-21-13-12-20-28(29)30)23-34(25-14-6-3-7-15-25,26-16-8-4-9-17-26)27-18-10-5-11-19-27;/h3-22H,23H2,1-2H3;1H/q+1;/p-1
